US05055451
Triethylamine (9.0 mmol, 1.25 mL) was added to a mixture of L-prolyl-L-alanine (Sigma, 4.5 mmol, 838 mg) in 80 mL of 1:1 dioxane-water. After 15 minutes, pieces of solid carbon dioxide were added to the solution until the pH was reduced to pH 8. N-CBZ-D-Phenylalanine 4-nitrophenyl ester (Sigma, 4.5 mmol, 1.89 g) was then added, and the mixture was stirred at room temperature for four days. The clear yellow solution was acidified by gradual addition of 1 N HCl, and diluted with ethyl acetate. The organic phase was then separated, washed with water (3×) and brine (2×), dried (MgSO4), and rotary evaporated to give an oil residue. A solution of this residue in ethyl acetate was fractionally extracted with three solutions of 80 mg NaHCO3 in 10 mL water. These aqueous extracts were combined, acidified, and extracted with ethyl acetate. The resulting ethyl acetate solution was washed with brine, dried (MgSO4), evaporated, and dried at high vacuum to provide 1.45 g (69%) of N-CBZ-D-phenylalanyl-L-valyl-L-alanine as a viscous oil, in sufficient purity for the next step.

reactant | Triethylamine | 9.0 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
reactant | L-prolyl-L-alanine | 4.5 mmol, 838 mg | N1[C@H](C(=O)N[C@@H](C)C(=O)O)CCC1 | C8H14N2O3
reactant | carbon dioxide | C(=O)=O | CO2
reactant | N-CBZ-D-Phenylalanine 4-nitrophenyl ester | 4.5 mmol, 1.89 g | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H20N2O6
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane water | 80 mL | O1CCOCC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-CBZ-D-phenylalanyl-L-valyl-L-alanine | 1.45 g, 69% | C(=O)(OCC1=CC=CC=C1)N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)O | C25H31N3O6
